US05128469
In 400 ml of toluene are dissolved 24.0 g of 2-amino-5-chlorothiophenol and 31.2 g of (4-methoxyphenyl)glycidic acid methyl ester, and the solution is refluxed under nitrogen atmosphere for 2 hours. To the reaction mixture are added 1.43 g of p-toluenesulfonic acid hydrate and 350 ml of xylene and the mixture is refluxed for 2 hours and simultaneously 350 ml of the solvent is distilled. After cooling, precipitated crystals are collected by filtration to give 19.8 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one.

reactant | 2-amino-5-chlorothiophenol | 24.0 g | NC1=C(C=C(C=C1)Cl)S | C6H6ClNS
reactant | (4-methoxyphenyl)glycidic acid methyl ester | 31.2 g | COC(C1(CO1)C1=CC=C(C=C1)OC)=O | C11H12O4
reactant | p-toluenesulfonic acid hydrate | 1.43 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | xylene | 350 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-8-chloro-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 19.8 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(NC([C@@H]1O)=O)C=CC(=C2)Cl | C16H14ClNO3S
